US09428528B2
Step 2 Preparation of Methanesulfonic acid 5-{4-[(4S,5R)-3-(2,2-difluoroacetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-ylmethyl ester
To a solution of 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-5-[4-(6-hydroxymethyl-pyridin-3-yl)-phenyl]-2,2-dimethyl-oxazolidin-3-yl}-ethanone (1.1 g, 2.792 mmol) in CH2Cl2 (50 mL) is added triethyl amine (0.564 g, 5.584 mmol) followed by methanesulphonyl chloride (0.365 g, 3.071 mmol) at 0° C. then stirred for 30 minutes at 0° C. Reaction mixture is diluted with saturated aqueous bicarbonate solution and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by combi-flash chromatography using 30% ethyl acetate in hexane as an eluent to afford the title compound (0.875 g). 1H-NMR (400 MHz, DMSO) δ: 1.53 (s, 3H), 1.60 (S, 3H), 3.30 (s, 3H), 4.54-4.58 (m, 0.5H), 4.60-4.70 (m, 1H), 4.82-4.83 (m, 0.5H), 4.90-4.94 (m, 1H), 5.28 (d, J=3.68 Hz, 1H), 5.36 (s, 2H), 6.64 (t, J=52.4 Hz, 1H), 7.61-7.64 (m, 3H), 7.82 (d, J=8.08 Hz, 2H), 8.19-8.21 (dd, J1=2.4 Hz, J2=8.16 Hz, 1H), 8.94 (d, 2.2 Hz, 1H). LC-MS (m/z): [M+H]=473.2.

reactant | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-5-[4-(6-hydroxymethyl-pyridin-3-yl)-phenyl]-2,2-dimethyl-oxazolidin-3-yl}-ethanone | 2.792 mmol, 1.1 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)CO)(C)C)F | C20H21F3N2O3
reactant | triethyl amine | 5.584 mmol, 0.564 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 3.071 mmol, 0.365 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | bicarbonate | C([O-])(O)=O
product | Methanesulfonic acid 5-{4-[(4S,5R)-3-(2,2-difluoroacetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-ylmethyl ester | 0.875 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=CC(=NC1)COS(=O)(=O)C)(C)C)F | C21H23F3N2O5S
